US07091357B2
To a stirred suspension of cyclopentyltriphenylphosphonium bromide (10.0 g, 23.8 mmol) in TMF (60 mL) was added dropwise n-BuLi (10.2 mL, 2.5 M solution in hexanes, 23.8 mmol) at 0° C. under N2. The resulting solution was stirred at this temperature for 30 min and cooled to −78 ° C. A solution of 6-oxo-hexanoic acid methyl ester (3.33 g, 23.1 mmol) in THF (6 mL) was added quickly. The resulting mixture was then allowed to warm to room temperature and stirred overnight. Water (30 mL) was added. The aqueous phase was extracted with hexane. The combined organic phases were washed with saturated aqueous NH4Cl and brine and dried. Concentration and purification of the residue by flash chromatography on silica gel (hexane:ethyl acetate, 10:1) afforded 6-cyclopentylidene-hexanoic acid methyl ester (3.15 g, 70%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 5.20 (1H, m), 3.64 (3H, s), 2.29 (2H, m), 2.16 (4H, m), 1.96 (2H, m), 1.62 (6H, m), 1.35 (2H, m); 13C NMR (75 MHz, CDCl3) δ 174.26, 143.54, 119.65, 51.66, 34.29, 33.79, 29.44, 28.86, 26.69, 26.61, 24.91.

reactant | cyclopentyltriphenylphosphonium bromide | 23.8 mmol, 10.0 g | [Br-].C1(CCCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 23.8 mmol, 2.5 M, 10.2 mL | [Li]CCCC
reactant | 6-oxo-hexanoic acid methyl ester | 23.1 mmol, 3.33 g | COC(CCCCC=O)=O | C7H12O3
reactant | Water | 30 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 6-cyclopentylidene-hexanoic acid methyl ester | 3.15 g, 70% | COC(CCCCC=C1CCCC1)=O | C12H20O2
